* C:\Users\adity\AppData\Local\LTspice\examples\ApplicationsCopy\LT1117.asc
* Generated by LTspice 24.1.9 for Windows.
X§U1 N003 N002 N001 LT1117
C1 N002 0 10µ V=33 Irms=0 Rser=0.3 Lser=0 mfg="KEMET" pn="T495D106M035AS" type="Tantalum"
V1 N001 0 4.25
R2 N002 N003 121
R3 N003 0 154
I1 N002 0 pulse(.1 .6 10u 1u 1u 50u 100u)
.tran 300u
.lib LT1117.lib
.backanno
.end
